US08895580B2
Step 2: Preparation of 2-(2-fluorophenyl)-5-(1H-indol-5-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
(4Z)-4-[(Ethoxy)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (236 mg, 0.720 mmol), potassium carbonate (100 mg, 0.720 mmol, 1 equiv) and 1-(1H-indol-5-yl)methanamine (105 mg, 0.720 mmol, 1 equiv) were combined and placed into a preheated oil bath at 100° C. open to the air for 2.5 hours. The mixture was cooled to ambient temperature, poured into water (50 mL) and extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 90:10; dichloromethane:methanol), providing the titled compound: 1H-NMR (500 MHz, d6-DMSO) δ 11.14 (1H, s), 9.12 (1H, s), 8.18 (1H, d, J=8.0 Hz), 7.89 (1H, d, J=9.0 Hz), 7.62-7.58 (2H, m), 7.53 (1H, s), 7.51 (1H, t, J=7.7 Hz), 7.48-7.38 (3H, m), 7.36-7.32 (2H, m), 7.09 (1H, d, J=8.6 Hz), 6.40 (1H, br m), 5.78 (2H, m) ppm; low resolution mass spectrometry (ES+) m/z 409.1449 [(M+H)+; calculated for C25H18FN4O: 409.1459].

reactant | (4Z)-4-[(Ethoxy)methylidene]-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 0.720 mmol, 236 mg | C(C)O\C=C\1/C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C18H14F2N2O2
reactant | potassium carbonate | 0.720 mmol, 100 mg, 1 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(1H-indol-5-yl)methanamine | 0.720 mmol, 105 mg, 1 equiv | N1C=CC2=CC(=CC=C12)CN | C9H10N2
solvent | water | 50 mL | O | H2O
product | 2-(2-fluorophenyl)-5-(1H-indol-5-ylmethyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC=2C=C3C=CNC3=CC2)C1=O | C25H17FN4O
